US03992535
e. 2-Methyl-2H-naphtho[2,1-e]-1,2-thiazine-4-(3H)-one-1,1-dioxide
A suspension of 10.7 gm (0.35 mol) of 2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-4(3H)-one-1,1-dioxide-ethylene ketal in 200 ml of methanol and 200 ml of aqueous 9% hydrochloric acid wasrefluxed for 30 minutes. Then, the mixture was evaporated to dryness in vacuo, the residue was taken up in methylene chloride, and the solution wsneutralized and again evaporated to dryness. After recrystallization of theresidue from ethanol, 6.3 gm (69% of theory) of 2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-4(3H)-one-1,1-dioxide, m.p. 192°-193° C), were obtained.

reactant | 2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-4(3H)-one-1,1-dioxide-ethylene ketal | 0.35 mol, 10.7 gm | C1COC2(CN(S(C3=C2C=CC2=CC=CC=C23)(=O)=O)C)O1 | C15H15NO4S
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | 2-Methyl-2H-naphtho[2,1-e]-1,2-thiazine-4-(3H)-one-1,1-dioxide | CN1S(C2=C(C(C1)=O)C=CC1=CC=CC=C12)(=O)=O | C13H11NO3S
